US07851475B2
Preparation of [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester
To a solution of [5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester (1.10 g, 3.58 mmol) in MeOH (25.0 mL) is added 10% Pd on charcoal (114 mg). The reaction mixture is stirred for 4 h under a hydrogen atmosphere (1 atm.), filtered through a microfilter (0.45 μM), and the filtrate concentrated at reduced pressure to afford the title compound as a red oil. ES+-MS: 278 [M+H]+.

reactant | [5-(4-Methyl-piperazin-1-yl)-2-nitro-phenyl]-acetic acid ethyl ester | 3.58 mmol, 1.10 g | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C15H21N3O4
solvent | MeOH | 25.0 mL | CO | CH4O
catalyst | Pd on charcoal | 114 mg | [Pd] | Pd
product | [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)N1CCN(CC1)C)N)=O | C15H23N3O2
